US04326881
Preparation of 1-acetyl-4-chloro-3-(3-trifluoromethylphenyl)pyrol (Compound No. 3)
The mixture of 1 g of 4-chloro-3-(3-trifluoromethylphenyl)pyrol and 2 g of N-acetylimidazole was fused for 1.5 hours at 140°-150° C. The resulding reaction mixture was purified by silicagel chloromatography using 10% solution of aceton in n-hexane as solvent to obtain 0.8 g of the desired product (pale reddish brown crystal, m.p. 70°-71.5° C.).

reactant | 4-chloro-3-(3-trifluoromethylphenyl)pyrol | 1 g | ClC=1C(=CNC1)C1=CC(=CC=C1)C(F)(F)F | C11H7ClF3N
reactant | N-acetylimidazole | 2 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
product | 1-acetyl-4-chloro-3-(3-trifluoromethylphenyl)pyrol | 0.8 g | C(C)(=O)N1C=C(C(=C1)Cl)C1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
